US05073550
18.75 g of N-bromosuccinimide are added to a solution of 27.4 g of 2,2-diphenyl-1,3-benzodioxol in 80 ml of chloroform and the mixture was boiled at reflux for 20 hours. The reaction mixture was cooled and the separated succinimide was filtered off. The filtrate was washed with water, dried over sodium sulphate and the solvent was removed in a vacuum. By crystallization of the residue from ethanol, there was obtained 5-bromo-2,2-diphenyl-1,3-benzodioxol as white crystals of melting point 88°-89° C.

reactant | N-bromosuccinimide | 18.75 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2-diphenyl-1,3-benzodioxol | 27.4 g | C1(=CC=CC=C1)C1(OC2=C(O1)C=CC=C2)C2=CC=CC=C2 | C19H14O2
solvent | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-bromo-2,2-diphenyl-1,3-benzodioxol | BrC1=CC2=C(OC(O2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C19H13BrO2
